US08563593B2
(2,2-difluoro-1,3-benzodioxol-5-yl)-methanol (1.0 eq) is dissolved in MTBE (5 vol). A catalytic amount of DMAP (1 mol %) is added and SOCl2 (1.2 eq) is added via addition funnel. The SOCl2 is added at a rate to maintain the temperature in the reactor at 15-25° C. The temperature is increased to 30° C. for 1 hour then cooled to 20° C. then water (4 vol) is added via addition funnel maintaining the temperature at less than 30° C. After stirring for an additional 30 minutes, the layers are allowed to separate. The organic layer is stirred and 10% (w/v) aq. NaOH (4.4 vol) is added. After stirring for 15 to 20 minutes, the layers are allowed to separate. The organic phase is then dried (Na2SO4), filtered, and concentrated to afford crude 5-chloromethyl-2,2-difluoro-1,3-benzodioxole that is used directly in the next step.

reactant | (2,2-difluoro-1,3-benzodioxol-5-yl)-methanol | 1.0 eq | FC1(OC2=C(O1)C=CC(=C2)CO)F | C8H6F2O3
reactant | SOCl2 | 1.2 eq | O=S(Cl)Cl | Cl2OS
reactant | water | O | H2O
solvent | MTBE | CC(C)(C)OC | C5H12O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-chloromethyl-2,2-difluoro-1,3-benzodioxole | ClCC1=CC2=C(OC(O2)(F)F)C=C1 | C8H5ClF2O2
